Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Morphine / Latex
 
Attending: ___.
 
Chief Complaint:
Chest pain 
 
Major Surgical or Invasive Procedure:
None

 
Past Medical History:
1) Sickle cell (HbSS) disease with frequent hospitalizations 
with pain crises discharge just 2 days prior for pain crisis.  
2) Pulmonary embolus in ___  
3) ? CVA in ___  
4) s/p acute chest syndrome requiring intubation in ___  
5) Asthma  
6) Borderline personality disorder/PTSD with history of suicidal 
ideation, past psychiatric hospitalizations  
7) Transfusion-related Hepatitis C  
8) s/p cholecystectomy  
9) Hx of seizure disorder-details unknown  
10) Hx of numerous port-a-cath placements  
11) Hx of coag-negative staph and MSSA line infections  
12) Hyperprolactinemia  
13) Lymphadenopathy L anterior cervical and R inguinal noted on 
last admission -- thought to be due to viral illness, with 
instructions to f/u with her PCP.
14) Hemorrhaging following therapeutic abortion ___ whilst 
on Coumadin
 
Social History:
___
Family History:
Mother ___ sickle trait
Father ___ has sickle cell anemia
Family history also includes HTN, HL, DM type II, blindness
 
Physical Exam:
ON ADMISSION:
Vitals: T: 99 104/56 96 18 100% on RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, mildly tender in LUQ, spleen tip palpable, 
non-distended, bowel sounds present, no rebound tenderness. Mild 
guarding  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  

ON DISCHARGE:
Vitals: T:99 BP 98-106/57-65, HR 86-94, RR 18, Sat 95-98%
General: Alert, ___ Female sitting up in bed in NARD
CV: S1, S2, no murmurs, gallops or rubs, regular, rate, rhythm
PUL: Clear to auscultation bilaterally
Abdomen: Non-tender, non-distended, normoactive BS x 4, soft
Ext: No edema noted
 
Pertinent Results:
___ 05:35AM BLOOD WBC-8.4 RBC-2.33* Hgb-9.2* Hct-26.5* 
MCV-114* MCH-39.6* MCHC-34.8 RDW-21.0* Plt ___
___ 05:38AM BLOOD WBC-6.8 RBC-2.35* Hgb-9.5* Hct-26.3* 
MCV-112* MCH-40.4* MCHC-36.0* RDW-21.1* Plt ___
___ 05:59AM BLOOD WBC-7.1 RBC-2.36*# Hgb-9.3*# Hct-26.3* 
MCV-112*# MCH-39.7* MCHC-35.6* RDW-21.0* Plt ___
___ 10:26PM BLOOD Hct-26.0*#
___ 03:03PM BLOOD WBC-7.0 RBC-1.66* Hgb-7.0* Hct-19.8* 
MCV-119* MCH-41.9* MCHC-35.2* RDW-18.1* Plt ___
___ 05:10AM BLOOD WBC-6.7 RBC-1.82* Hgb-7.5* Hct-21.7* 
MCV-119* MCH-41.3* MCHC-34.7 RDW-18.2* Plt ___
___ 11:28AM BLOOD WBC-7.0 RBC-2.00* Hgb-8.2* Hct-23.7* 
MCV-119* MCH-40.9* MCHC-34.4 RDW-19.0* Plt ___
___ 06:43AM BLOOD WBC-7.7 RBC-1.93* Hgb-7.9* Hct-22.9* 
MCV-118* MCH-40.9* MCHC-34.6 RDW-19.4* Plt ___
___ 06:20PM BLOOD WBC-6.7 RBC-2.17* Hgb-9.0* Hct-25.4* 
MCV-117* MCH-41.6* MCHC-35.5* RDW-19.1* Plt ___
___ 05:35AM BLOOD ___ PTT-33.5 ___
___ 05:38AM BLOOD ___ PTT-27.6 ___
___ 11:24AM BLOOD ___ PTT-31.8 ___
___ 09:39AM BLOOD ___ PTT-38.8* ___
___ 06:43AM BLOOD ___ PTT-32.2 ___
___ 06:20PM BLOOD ___ PTT-38.0* ___
___ 05:35AM BLOOD Glucose-90 UreaN-6 Creat-0.4 Na-137 K-3.9 
Cl-108 HCO3-24 AnGap-9
___ 05:38AM BLOOD Glucose-97 UreaN-7 Creat-0.5 Na-140 K-3.9 
Cl-109* HCO3-25 AnGap-10
___ 05:59AM BLOOD Glucose-106* UreaN-5* Creat-0.4 Na-141 
K-3.4 Cl-111* HCO3-21* AnGap-12
___ 05:10AM BLOOD Glucose-109* UreaN-4* Creat-0.5 Na-142 
K-3.7 Cl-111* HCO3-21* AnGap-14
___ 06:43AM BLOOD Glucose-93 UreaN-3* Creat-0.3* Na-138 
K-3.2* Cl-111* HCO3-21* AnGap-9
___ 05:38AM BLOOD LD(LDH)-306*
___ 05:59AM BLOOD LD(___)-304*
___ 05:10AM BLOOD LD(LDH)-328* TotBili-0.7
___ 06:43AM BLOOD LD(LDH)-344* TotBili-0.9 DirBili-0.3 
IndBili-0.6
___ 05:38AM BLOOD Phenyto-18.7
___ 05:59AM BLOOD Phenyto-14.9
___ 05:10AM BLOOD Phenyto-9.1*
___ 06:20PM BLOOD Phenyto-0.7*

-----

RADIOLOGY REPORTS:
CHEST X-RAY 2 VIEWS: ___
FINDINGS: Lung volumes are diminished. No edema is noted. Subtle 
increased 
density noted in retrocardiac left lower lobe. A right internal 
jugular approach Port-A-Cath is again present in stable course 
and position. Mediastinum is otherwise unremarkable. The cardiac 
silhouette is borderline enlarged but stable. No effusion or 
pneumothorax is noted. The visualized osseous structures are 
unremarkable. 
  
IMPRESSION: Low lung volumes with bronchovascular crowding. Left 
lower lobe opacity may reflect atelectasis although an early 
developing pneumonia is not excluded. Port-A-Cath stable. 

Left Upper Extremity Doppler U/S: No evidence of DVT
 
Brief Hospital Course:
ASSESSMENT:
___ y.o. Female with h.o. SCD, Borderline PD, P.E. on Coumadin, 
?conversion d.o. admitted with SOB, chest pain thought to be ___ 
sickle cell disease versus supratentorial, active suicidal 
ideation.

##. Chest Tightness: Ms. ___ was admitted to ___ after 
leaving the ___ Unit against medical advice. The 
cause of her chest pain was unclear given her history of sickle 
cell disease as well as conversion disorder. An EKG showed 
normal sinus rhythm with no acute ST changes. Sickle cell labs 
did not show an elevated total bilirubin however her LDH was 
mildly elevated. Given her sickle cell history and mildly 
elevated LDH she was treated for sickle cell crisis with 
intravenous fluid, hydroxyurea. She was also given a one unit 
blood transfusion for a low Hct of 19 (her admission Hct was 21 
likely from her recent history of hemorrhaging following the 
therapeutic abortion). She was initially treated with IV 
Dilaudid 1mg diluted in 50cc of normal saline run over 30 
minutes every 3 hours. She was then transitioned to her previous 
PO regimen of Dilaudid. There were several times when Ms. ___ 
stated she was in pain however her pain was easily resolved with 
distraction. Given her history od hiding and cheeking her pills 
her Dilaudid medication was given crushed. The patient had also 
admitted endorsing saving her pain medications so she could take 
them all together in an attempt at suicide. It is also possible 
that her chest pain was due to her history of hyperanalgesia and 
conversion disorder, however given her medical history this 
author felt it would be difficult to truly rule out a sickle 
cell crisis. She did not present with any acute chest syndrome 
symptoms.

##. ?Pneumonia: On admission Ms. ___ stated that she had 
fevers and several days of green sputum which mirrors to the 
exact word her previous presentations every year since ___. A 
Chest xray was obtained in the ED which showed some lower lobe 
opacification which was likely atelectasis however an early 
infiltrate could not be excluded. Her subjective symptoms are 
difficult to interpret given her conversion disorder history. 
She presented with no leukocytosis and her pulmonary exam was 
clear to auscultation. However given the opacification for which 
an infection could not be ruled out, her reported symptoms and 
her susceptibility to Mycoplasma and Legionella from her sickle 
cell disease this author thought it prudent to treat her. She 
completed a 5 day course of Levofloxacin.

##. Aggressive behaviour/Suicidal Ideation: Psychiatry were 
consulted upon patient admission as pt was noted to be very 
tearful and requested psychiatry see her. Initially she told 
psychiatry that she had issues with feeling angry and wanting to 
be aggressive. She was thus moved to a private room with 1:1 
sitter and was started on Risperidone 2mg BID. She also endorsed 
some auditory hallucinations of her father and grandmother 
telling her it would be better for her to die. On her third day 
of hospitalization she then endorsed first passive suicidal 
ideation stating she felt like she should just die; and then 
active suicidal ideation. She was considering jumping out the 
window, she asked the nurses to take away the plastic bin liners 
as she felt like suffocating herself with them. Psychiatry 
continued to follow the patient in house, the sitter was also 
continued and all bin liners were removed from her room. She is 
going to be transferred back to the ___ on a ___. 

## History of pulmonary embolism: Patient on admission was noted 
to be mildly subtherapeutic on her Coumadin with an INR of 1.9. 
She does have a history of cheeking her Coumadin medication, per 
the patients family members the ___ had been held 
previously as she had some hemorrhaging following a therapeutic 
abortion. Whilst in the hospital she received 1 day of bridiging 
with Lovenox until her INR was above 2.0. She was discharged on 
her usual dose of 5mg Coumadin, with her goal INR needing to be 
ranging from 2 to 3. 

## Anemia: Upon admission Ms. ___ was noted to have a Hct of 
25 which trended down to 21 and 19. Per her sister she was noted 
to have a recent history of bleeding following a therapeutic 
abortion. In the ED her guaiacs were negative showing no blood 
in her stool, the decrease in her Hct was likely due to 
hemodilution as she was given fluid for her sickle cell crisis. 
She received one unit of red blood cells with a subsequent Hct 
of 26 which remained stable prior to discharge.

## Seizure disorder: She was also noted to have a subtherapeutic 
Dilantin level of 0.9, she states her dilantin was recently 
increased from BID to TID. I suspect she may not be adherent to 
this medication given the high dose of Dilantin 200mg TID. She 
was reloaded with Dilantin and continued on Dilantin 200mg TID; 
prior to discharge her Dilantin dose was reduced to 200mg BID. 
She will need to have a Dilantin checked on ___ and 
___ to ensure she is maintained at a goal level of 10 to 
20. Would recommend then continuing to check daily Dilantin 
levels until she is stabilized with a level between 10 and 20.

## Asthma: She was continued on her home regimen of fluticasone, 
albuterol MDI as needed.

 
Medications on Admission:
1. Citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
2. Senna 8.6 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime).  
3. Morphine 30 mg Tablet Sustained Release Sig: One (1) Tablet  
Sustained Release PO QAM (once a day (in the morning)).  
4. Morphine 15 mg Tablet Sustained Release Sig: One (1) Tablet  
Sustained Release PO QHS (once a day (at bedtime)).  
5. Hydroxyurea 500 mg Capsule Sig: Two (2) Capsule PO DAILY  
(Daily).  
6. Lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO DAILY  
(Daily).  
7. Acyclovir 5 % Ointment Sig: One (1) Appl Topical BID (2 times 
 
a day).  
8. Magnesium Oxide 400 mg Tablet Sig: One (1) Tablet PO DAILY  
(Daily).  
9. Phenytoin 50 mg Tablet, Chewable Sig: Two (2) Tablet,  
Chewable PO BID (2 times a day).  
10. Fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff  
Inhalation BID (2 times a day).  
11. Famotidine 20 mg Tablet Sig: One (1) Tablet PO Q12H (every  
12 hours).  
12. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
13. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO HS (at  
bedtime).  
14. Diphenhydramine HCl 25 mg Capsule Sig: One (1) Capsule PO  
Q6H (every 6 hours) as needed for itching.  
15. Ondansetron 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
 
Rapid Dissolve PO Q8H (every 8 hours) as needed for nausea.  
16. Hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q4H (every 4  
hours) as needed for pain.  
17. Mirtazapine 15 mg Tablet Sig: One (1) Tablet PO HS (at  
bedtime).  
18. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO TID (3  
times a day).  
19. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6  

hours).  
20. Warfarin 5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4  

___.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Chest Pain, suspected sickle cell crisis

Secondary Diagnosis:
Suicidal Ideation
Anemia
Chronic Pulmonary Embolism
Seziures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital after experiencing some chest 
tightness. Although it is unclear as to what was the cause of 
the pain we treated you for a possible sickle cell crisis. 
Whilst in the hospital you were given intravenous fluids, a 
blood transfusion and pain medication. During your 
hospitalization you endorsed some suicidal thoughts which is why 
you are being discharged to ___ Inpatient Psychiatry Ward 
on a ___.

We have enclosed a copy of all of your medications.
 
Followup Instructions:
___